US08487108B2
To a solution of (R)-tert-butyl 3-((R)-(2-aminoethoxy)(m-tolyl)methyl)piperidine-1-carboxylate and DMAP in anhydrous CH2Cl2, Et3N was added. The resulting mixture was cooled to 0-5° C. under ice-water bath, a solution of methyl chloroformate in anhydrous CH2Cl2 was added dropwise. After addition, the reaction mixture was stirred for 1-2 hr at 0-5° C. Water was added to quench the reaction. The aqueous layer was extracted with CH2Cl2, the combined organic layers were washed with 10% citric acid and brine, then dried over Na2SO4, filtered and concentrated to the crude product, which was purified by preparative TLC to afford (R)-tert-butyl 3-((R)-(2-(methoxycarbonylamino)ethoxy)(m-tolyl)methyl)piperidine-1-carboxylate.

reactant | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(m-tolyl)methyl)piperidine-1-carboxylate | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C=1C=C(C=CC1)C | C20H32N2O3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | (R)-tert-butyl 3-((R)-(2-(methoxycarbonylamino)ethoxy)(m-tolyl)methyl)piperidine-1-carboxylate | COC(=O)NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C=1C=C(C=CC1)C | C22H34N2O5
